US07517873B2
To a ice cooled solution of 13.36 g (0.066 mole) of 2-cyclopentylamino-1-cyclopentenecarboxylic acid, methyl ester (prepared from 10.0 g (0.116 mole) of cyclopentylamine and 18.46 g (0.122 mole) of 2-oxocyclopentanecarboxylic acid methyl ester in 200 mL of dichloromethane, in the presence of 38.9 g (0.174 mole) of sodium triacetoxyborohydride and 14.31 g (0.174 mole) of sodium acetate) in 210 mL of acetonitrile and 110 mL of acetic acid was added 44.32 g (0.198 mole) of sodium triacetoxyborohydride. After 10 minutes, the cooling bath was removed and the mixture stirred at room temperature overnight. Solvents were removed under reduced pressure and the residue partitioned between ethyl acetate and water containing sufficient sodium carbonate to make the mixture basic (ca pH 11). The water layer was extracted twice with ethyl acetate and the combined ethyl acetate layers washed successively with water, then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 10.2 g of (rac)-2-cyclopentylamino-cyclopentanecarboxylic acid, methyl ester, which was used without further purification in subsequent steps.

reactant | 2-cyclopentylamino-1-cyclopentenecarboxylic acid, methyl ester | 0.066 mole, 13.36 g | C1(CCCC1)NC1=C(CCC1)C(=O)OC | C12H19NO2
reactant | cyclopentylamine | 0.116 mole, 10.0 g | C1(CCCC1)N | C5H11N
reactant | 2-oxocyclopentanecarboxylic acid methyl ester | 0.122 mole, 18.46 g | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | sodium triacetoxyborohydride | 0.174 mole, 38.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium acetate | 0.174 mole, 14.31 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.198 mole, 44.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 210 mL | C(C)#N | C2H3N
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
product | (rac)-2-cyclopentylamino-cyclopentanecarboxylic acid, methyl ester | 10.2 g | C1(CCCC1)NC1C(CCC1)C(=O)OC | C12H21NO2
